US07247625B2
To a stirred solution of magnesium turnings (19.44 g, 800 mmol) and a catalytic amount of iodine in ether (500 mL) was slowly added 1,4-dibromobutane (24.0 mL, 200 mmol). The reaction was stirred until reflux ceased. The magnesium was decanted and the solution was slowly added to 2-aminobenzoic acid methyl ester (8.0 mL, 61.70 mmol) in THF (600 mL) at 0° C. The solution was stirred overnight at room temperature, quenched with ammonium chloride solution (sat.) and extracted several times with ethyl acetate. The combined organic layers were washed with brine, dried over magnesium sulfate and concentrated. The crude material was taken up in THF (150 mL) and CDI (9.17 g, 56.53 mmol) was added. The reaction mixture was stirred overnight at room temperature and partitioned between ammonium chloride solution (sat) and ethyl acetate. The organic layer was dried over magnesium sulfate and concentrated. Flash silica gel column separation with 20% ethyl acetate/hexane gave spiro[4H-3,1-benzoxazine-4,1′-cyclopentan]-2(1H)-one as a white solid (2.60 g, 27%). 1H NMR (DMSO-d6): δ 10.15 (s, 1H), 7.28 (m, 2H), 7.03 (t, J=7.6 Hz, 1H), 6.89 (dd, J=7.9, 0.8 Hz, 1H), 2.15 (m, 2H), 2.07 (m, 2H), 1.90 (m, 4H); MS (ESI) m/z 204 ([M+H]+); Anal. calcd for C12H13NO2: C, 70.92; H, 6.45 N, 6.89. Found: C, 70.84; H, 6.42; N, 6.77.

reactant | magnesium | 800 mmol, 19.44 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 1,4-dibromobutane | 200 mmol, 24.0 mL | BrCCCCBr | C4H8Br2
reactant | 2-aminobenzoic acid methyl ester | 61.70 mmol, 8.0 mL | COC(C1=C(C=CC=C1)N)=O | C8H9NO2
reactant | CDI | 56.53 mmol, 9.17 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | ether | 500 mL | CCOCC | C4H10O
solvent | THF | 600 mL | C1CCOC1 | C4H8O
product | spiro[4H-3,1-benzoxazine-4,1′-cyclopentan]-2(1H)-one | 2.60 g, 27% | C12(CCCC1)OC(NC1=C2C=CC=C1)=O | C12H13NO2
